.SUBCKT OAI2BB1X2H7R A0N A1N B0 VDD VSS Y
*.PININFO A0N:I A1N:I B0:I Y:O VDD:B VSS:B
MMN7 net042 A1N net45 VSS nm1p2_svt_lp W=150n L=60n m=1
MNM1 net42 B0 VSS VSS nm1p2_svt_lp W=300n L=60n m=1
MNM0 net45 A0N VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN10 Y net042 net42 VSS nm1p2_svt_lp W=300n L=60n m=1
MMP9 Y net042 VDD VDD pm1p2_svt_lp W=380n L=60n m=1
MMP5 net042 A1N VDD VDD pm1p2_svt_lp W=190n L=60n m=1
MPM1 Y B0 VDD VDD pm1p2_svt_lp W=380n L=60n m=1
MPM0 net042 A0N VDD VDD pm1p2_svt_lp W=190n L=60n m=1
.ENDS
