.SUBCKT OAI211X1H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMNM3 Y C0 net30 VSS nm1p2_svt_lp W=210n L=60n m=1
MNM4 net22 A0 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MNM3 net30 B0 net22 VSS nm1p2_svt_lp W=210n L=60n m=1
MNM5 net22 A1 VSS VSS nm1p2_svt_lp W=210n L=60n m=1
MPM5 Y C0 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MPM4 Y B0 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MPM0 net13 A0 VDD VDD pm1p2_svt_lp W=270n L=60n m=1
MPM3 Y A1 net13 VDD pm1p2_svt_lp W=270n L=60n m=1
.ENDS
