.SUBCKT OAI211X3H7R A0 A1 B0 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I C0:I Y:O VDD:B VSS:B
MMNM3 Y C0 net30 VSS nm1p2_svt_lp W=450n L=60n m=1
MNM2 net22 A1 VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MNM1 net22 A0 VSS VSS nm1p2_svt_lp W=450n L=60n m=1
MNM0 net30 B0 net22 VSS nm1p2_svt_lp W=450n L=60n m=1
MMPM1 Y A1 net13 VDD pm1p2_svt_lp W=570n L=60n m=1
MPM1 Y B0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MPM0 net13 A0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
MPM2 Y C0 VDD VDD pm1p2_svt_lp W=570n L=60n m=1
.ENDS
